US06525054B1
(1) 2,3-dimethoxy-6-fluoro-7-nitroquinoxaline
To a solution of sodium methoxide which was prepared from dried methanol 75 mL and metallic sodium 1.332 g, was added 2,3-dichloro-6-fluoro-7-nitroquinoxaline 4.778 g under ice-cooling and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into ice water, then the resulting precipitation was collected and washed with water. The aqueous layer was extracted with chloroform, then the combined product was purified with alumina column chromatography and crystallized from acetone/hexane, to give the title compound (white crystal) 3.342 g.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 1.332 g | [Na] | Na
reactant | 2,3-dichloro-6-fluoro-7-nitroquinoxaline | 4.778 g | ClC1=NC2=CC(=C(C=C2N=C1Cl)F)[N+](=O)[O-] | C8H2Cl2FN3O2
reactant | methanol | 75 mL | CO | CH4O
product | 2,3-dimethoxy-6-fluoro-7-nitroquinoxaline | 3.342 g | COC1=NC2=CC(=C(C=C2N=C1OC)F)[N+](=O)[O-] | C10H8FN3O4
